US05880130
Using an analogous reaction procedure to that described in Example 6, 6-chloro-4-(3'-chloro-4'-fluoroanilino)pyrimidine (0.258 g) was reacted with 4-methoxycarbonylmethoxyaniline (0.195 g). The reaction product was chromatographed on silica and precipitated from a mixture of methylene chloride, methanol and hexane to give 4-(3'-chloro-4'-fluoroanilino)-6-(4'-methoxycarbonylmethoxyanilino)pyrimidine in 26% yield, m.p. 191°-193° C.

reactant | 6-chloro-4-(3'-chloro-4'-fluoroanilino)pyrimidine | 0.258 g | ClC1=CC(=NC=N1)NC1=CC(=C(C=C1)F)Cl | C10H6Cl2FN3
reactant | 4-methoxycarbonylmethoxyaniline | 0.195 g | COC(=O)COC1=CC=C(N)C=C1 | C9H11NO3
product | 4-(3'-chloro-4'-fluoroanilino)-6-(4'-methoxycarbonylmethoxyanilino)pyrimidine | 26% yield | ClC=1C=C(NC2=NC=NC(=C2)NC2=CC=C(C=C2)OCC(=O)OC)C=CC1F | C19H16ClFN4O3
